US05189049
H') 1-(t-Butoxycarbonyl)indole-2-carboxylic acid
30 ml of a solution in acetonitrile of 6 g of ditert-butyl dicarbonate are introduced dropwise into 30 ml of a solution of 4 g of indole-2-carboxylic acid, 4 ml of triethylamine and 0.4 g of 4-(dimethylamino)pryidine. After stirring for 2 hours at ambient temperature and removing the precipitate formed, the acetonitrile is removed by distillation and the residue is dissolved in methylene chloride. The organic phase is washed with water, dried and concentrated to dryness. m.p.=117° C.; yield: 66%.

reactant | ditert-butyl dicarbonate | 6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | indole-2-carboxylic acid | 4 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pryidine | 0.4 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-(t-Butoxycarbonyl)indole-2-carboxylic acid | yield: 66% | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C(=O)O | C14H15NO4
